US04895849
Synthesis of dl-5-chloro-6-ethyl-4-[α-ethyl-4-(1,1,2,2-tetrafluoroethoxy)benzyl]aminopyrimidine (Compound No. 114)
Into a solution of 1.6 g of dl-5-chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine.sodium salt dissolved in 30 ml of N,N-dimethylformamide was gradually bubbled about 2.2 g of tetrafluoroethylene at 80° C. under nitrogen atmosphere while stirring. After completion of the bubbling, the mixture was stirred for 2 hours, and the reaction mixture was charged into water and separated oily product was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and ethyl acetate was distilled off under reduced pressure. The oily product obtained was isolated by column chromatography (Wako Gel C-200, trade name, eluted with toluene: ethyl acetate=7:1) to give 0.6 g of the desired product as pale yellow liquid.

reactant | dl-5 chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine | 1.6 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)O)CC)CC
reactant | sodium | [Na] | Na
reactant | tetrafluoroethylene | about 2.2 g | FC(=C(F)F)F | C2F4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | dl-5 chloro-6-ethyl-4-[α-ethyl-4-(1,1,2,2-tetrafluoroethoxy)benzyl]aminopyrimidine | 0.6 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)OC(C(F)F)(F)F)CC)CC | InChI=1S/C18H34N4O2.C17H18ClF4N3O/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-3-11-9-14(25-16(18)23-11)24-13(4-2)10-5-7-12(8-6-10)26-17(21,22)15(19)20/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;5-9,13,15H,3-4H2,1-2H3,(H,23,24,25)
